US07514567B2
(R)-3′-[4-(3-Pyridyl)furan-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analogous to that described in Example 12 from (R)-3′-(4-bromofuran-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and pyridine-3-boronic acid. The title compound (105 mg) was obtained as a pale solid, m/z 326 (MH+).

reactant | (R)-3′-(4-bromofuran-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | BrC=1C=C(OC1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C13H15BrN2O3
reactant | pyridine-3-boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | (R)-3′-[4-(3-Pyridyl)furan-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 105 mg | N1=CC(=CC=C1)C=1C=C(OC1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C18H19N3O3
